US04594199
4-[Ethoxy-(4-phenylbutyl)phosphinyl]-4,4-dimethyl-2-butanone
To a solution of 4-phenylbutyl phosphonous acid, ethyl ester (1 g, 0.0044 mole) in chloroform (40 ml) was added triethylamine (0.68 ml, 0.0049 mole), trimethyl silylchloride (0.62 ml, 0.0049 mole) and mesityl oxide (0.56 ml, 0.0049 mole). The reaction mixture was stirred at reflux for 18 hours. The solution was washed with H2O, followed by extraction with 5% HCl solution and brine, dried over Na2So4 ; solvent was removed in vacuo to give 1.08 g of an oil.

reactant | 4-phenylbutyl phosphonous acid, ethyl ester | 0.0044 mole, 1 g | C1(=CC=CC=C1)CCCCP(OCC)[O-]
reactant | triethylamine | 0.0049 mole, 0.68 ml | C(C)N(CC)CC | C6H15N
reactant | trimethyl silylchloride | 0.0049 mole, 0.62 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | mesityl oxide | 0.0049 mole, 0.56 ml | O=C(C)C=C(C)C | C6H10O
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[Ethoxy-(4-phenylbutyl)phosphinyl]-4,4-dimethyl-2-butanone | 1.08 g | C(C)OP(=O)(C(CC(C)=O)(C)C)CCCCC1=CC=CC=C1 | C18H29O3P
